US08008298B2
A solution of 2,2-dimethyl-3-triisopropylsilanyloxy-propionic acid in anhydrous dichloromethane (13 ml) was slowly treated with EDCI (1.03 g, 5.38 mmol) followed by N,O -dimethylhydroxylamine hydrochloride (525 mg, 5.4 mmol), DMAP (55 mg, 0.045 mmol), and TEA (0.75 ml, 5.38 mmol). After stirring overnight at room temperature the reaction mixture was partitioned between DCM/water. The organic layers were collected, dried over MgSO4, filtered, and concentrated giving a greenish oil. Silica gel chromatography using 10-60% EtOAc in hexanes as eluant provided 1.13 mg (79%) of N-methoxy-2,2,N-trimethyl-3-triisopropylsilanyloxy-propionamide as a colorless oil. M+H=318.

reactant | 2,2-dimethyl-3-triisopropylsilanyloxy-propionic acid | CC(C(=O)O)(CO[Si](C(C)C)(C(C)C)C(C)C)C | C14H30O3Si
reactant | EDCI | 5.38 mmol, 1.03 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | N,O -dimethylhydroxylamine hydrochloride | 5.4 mmol, 525 mg | Cl.CNOC
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
catalyst | DMAP | 0.045 mmol, 55 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-methoxy-2,2,N-trimethyl-3-triisopropylsilanyloxy-propionamide | 1.13 mg, 79% | CON(C(C(CO[Si](C(C)C)(C(C)C)C(C)C)(C)C)=O)C | C16H35NO3Si
